US08648068B2
113.6 Acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-1-methanesulfonyl-pyrrolidin-2-ylmethyl ester
Prepared analogously to example 10.2 from acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-pyrrolidin-2-ylmethyl ester hydrochloride and methanesulfonyl chloride. Methansulfonyl chloride was added at 0° C.

reactant | acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-pyrrolidin-2-ylmethyl ester hydrochloride | Cl.C(N)(=O)C1=C(C2=C(N=CN=C2NC2=C(O[C@H]3C[C@H](NC3)COC(C)=O)C=C(C=C2)F)S1)C
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-1-methanesulfonyl-pyrrolidin-2-ylmethyl ester | C(N)(=O)C1=C(C2=C(N=CN=C2NC2=C(O[C@H]3C[C@H](N(C3)S(=O)(=O)C)COC(C)=O)C=C(C=C2)F)S1)C | C22H24FN5O6S2
